US04435406
33 g of 1,5-diacetamino-indoline were dissolved at 70° C. in 120 ml of glacial acetic acid and nitrated dropwise with 15 ml of nitric acid (d=1.4). The reaction became vigorous and methanol/ice cooling was used. The precipitated crystals were removed by filtration under suction, dissolved in methylene chloride and washed neutral. After evaporation and crystallization from isopropanol, there were obtained 25 g (62.8% of theory) of 1,5-diacetamino-6-nitro-indoline of melting point 212°-213° C.

reactant | 1,5-diacetamino-indoline | 33 g | N(C(=O)C)N1CCC2=CC(=CC=C12)NC(=O)C | C12H15N3O2
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1,5-diacetamino-6-nitro-indoline | 25 g, 62.8% | N(C(=O)C)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])NC(=O)C | C12H14N4O4
